US05169096
To a stirred solution of phenyl[1-(3-phenylpropyl)-4-piperidinyl]-methanone hydrochloride (6.8 g, 0.02 mol) in absolute ethanol (120 ml) was added sodium methoxide (1.08 g, 0.04 mol) followed by sodium borohydride (1.51 g, 0.04 mol). The reaction mixture was stirred for 72 h and then concentrated at reduced pressure to a solid residue. This material was stirred with aqueous 10% NaOH for 1 h and then extracted with toluene (2×50 ml). The extracts were washed with water and then saturated NaCl solution. The toluene solution was dried over MgSO4, filtered and concentrated to a colorless oil. This material was dissolved in dry Et2O (50 ml) and treated with a solution of HCl (0.02 mol) in CH3OH/EtOAc (1:4, 12.5 ml). The resultant precipitate was dissolved in water, basified using 10% aqueous NaOH and extracted into toluene. The toluene solution was washed with saturated aqueous NaCl dried over MgSO4, filtered and concentrated to a solid. This material was flash chromatographed on a 2.5×6.0 inch silica gel column, and eluted with CH3OH/CH2Cl2 (1:9). The resultant fractions (7-9) eventually solidified and were recrystallized from acetone to give alpha-phenyl-1-(3-phenylpropyl)-4-piperidinemethanol, mp 87°-88° C.

reactant | phenyl[1-(3-phenylpropyl)-4-piperidinyl]-methanone hydrochloride | 0.02 mol, 6.8 g | Cl.C1(=CC=CC=C1)C(=O)C1CCN(CC1)CCCC1=CC=CC=C1
reactant | sodium methoxide | 0.04 mol, 1.08 g | C[O-].[Na+]
reactant | sodium borohydride | 0.04 mol, 1.51 g | [BH4-].[Na+]
reactant | HCl | 0.02 mol | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | CH3OH EtOAc | 12.5 ml | CO.CCOC(=O)C
solvent | water | O | H2O
product | alpha-phenyl-1-(3-phenylpropyl)-4-piperidinemethanol | C1(=CC=CC=C1)C(O)C1CCN(CC1)CCCC1=CC=CC=C1 | C21H27NO
